US06964966B2
Step-1: Ethyl-1-benzyl-3-methyl-4-oxo-piperidine-3-carboxylate:
Ethyl-1-benzyl-4-oxo-piperidine-3-carboxylate hydrochloride (150 g, 0.504 mol) was suspended in a solvent mixture of 750 ml THF and 750 ml DMF at room temperature. Addition of powdered KOH (56 g, 1.0 mol) was made in two equal lots keeping half an hour interval between two additions. To a clear reaction mixture methyl iodide (78 g, 0.55 mol) was added over period of 10 minutes and it was stirred for three hours at room temperature. The reaction was quenched by adding 4 ltr water followed by 1.5 ltr diethyl ether. Layers were separated. Organic layer was washed with water and dried over Na2SO4. Evaporation of organic solvent afforded a liquid, which was passed through a silica gel column to give 86 g (61%), titled compound.

reactant | Ethyl-1-benzyl-4-oxo-piperidine-3-carboxylate hydrochloride | 0.504 mol, 150 g | Cl.C(C)OC(=O)C1CN(CCC1=O)CC1=CC=CC=C1
reactant | THF | 750 ml | C1CCOC1 | C4H8O
reactant | KOH | 1.0 mol, 56 g | [OH-].[K+]
reactant | methyl iodide | 0.55 mol, 78 g | CI | CH3I
solvent | DMF | 750 ml | CN(C)C=O | C3H7NO
product | Ethyl-1-benzyl-3-methyl-4-oxo-piperidine-3-carboxylate | C(C)OC(=O)C1(CN(CCC1=O)CC1=CC=CC=C1)C | C16H21NO3
